US04228274
To a mixture of about 3.0 grams of 2,3,4,6-tetra-O-acetyl-α-D-mannopyranosyl azide, 0.5 grams Raney nickel catalyst, and 40 ml. ethyl acetate, is vigorously agitated with hydrogen at atmospheric pressure, at a temperature of about 25° C. for a period of about 6.5 hours. The reaction mixture is filtered through diatomaceous silica, and the filtered solution is evaporated in vacuo to a syrup which crystallizes upon standing at a temperature of about 5° C. The crystalline product is recrystallized from 2-propanol to give about 1.7 grams of 2,3,4,6-tetra-O-acetyl-β-D-mannopyranosylamine; m.p. 145°-147° C.; [α]D25 -9.8° (c 1.02, methanol).

reactant | 2,3,4,6-tetra-O-acetyl-α-D-mannopyranosyl azide | about 3.0 grams | C(C)(=O)O[C@@H]1[C@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)N=[N+]=[N-] | C14H19N3O9
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 0.5 grams | [Ni] | Ni
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,3,4,6-tetra-O-acetyl-β-D-mannopyranosylamine | about 1.7 grams | C(C)(=O)O[C@@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)N | C14H21NO9
